US04935511
Methyl 3-nitro-4-amino-5-chlorosalicylate (4.1 g, 0.017 mmol) is hydrogenated at 45 initial psi in 450 ml ethanol for 30 minutes using 2.1 g of 10% Pt/C. The catalyst is then filtered (celite) and washed with ethylacetate (450 ml) and the filtrate evaporated in vacuo to give methyl 3,4-diamino-5-chlorosalicylate which is used directly in the next step.

reactant | Methyl 3-nitro-4-amino-5-chlorosalicylate | 0.017 mmol, 4.1 g | [N+](=O)([O-])C1=C(C(C(=O)OC)=CC(=C1N)Cl)O | C8H7ClN2O5
solvent | ethanol | 450 ml | C(C)O | C2H6O
catalyst | Pt/C | 2.1 g | [Pt] | Pt
product | methyl 3,4-diamino-5-chlorosalicylate | NC1=C(C(C(=O)OC)=CC(=C1N)Cl)O | C8H9ClN2O3
